2185-06-10 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -stable overnight.
   -Gave D5W (water deficit about 2.5L)
   -started TF
   -Decreased FiO2
   -Plan to stop propofol around 4am and try PS
   -Gas on PS: 7.35/55/144
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-6-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-6-10**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.2
C (97.2
   HR: 62 (59 - 75) bpm
   BP: 134/64(89) {116/57(79) - 152/69(100)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,132 mL
                                                                    749 mL
   PO:
             TF:
             63 mL
   IVF:
                                                                  1,132 mL
                                                                    656 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                    360 mL
   Urine:
                                                                    390 mL
                                                                    360 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,702 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 241 (241 - 241) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 10 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.35/54/144/24/3
   Ve: 7.9 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General: Intubated. Sedated. Opens eyes, moves to voice, no purposeful
   movement. Cachectic.
   Pulmonary: Lungs CTA bilaterally, no wheezes audible.  Slight decreased
   BS at left base.
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: Thin, soft, + BS.
   Extremities: Thin, no edema, distal pulses present.
   Labs / Radiology
   250 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   27 mg/dL
   119 mEq/L
   153 mEq/L
        [image002.jpg]
                             [**2185-6-9**]  06:40 PM
                             [**2185-6-9**]  09:59 PM
                             [**2185-6-9**]  10:39 PM
                             [**2185-6-10**]  05:46 AM
   Cr
   0.7
   TCO2
   27
   29
   31
   Glucose
   250
   Other labs: Lactic Acid:1.1 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   :</I> 72F with history of emphysema/COPD and prior CVAs found down,
   hypoxic, tachycardic and confused.
   .
   <I>PLAN:</I>
   .
   <I>## Respiratory failure:</I>Ddx PNA vs COPD flare vs COPD flare in
   setting of infection.  Patient arrived to floor intuibated.  Doing well
   overall.  Gas this am seems a little more academic, may be related to
   retaining on PS although unclear why.
   -Cont PS, consider extubatin, possibly to BiPAP.
   -nebs Q4 and PRN
   -a-line, check abg, wean vent accordingly pending this result.
   -sputum cx
   -viral cultures
   -solumedrol
   -f/u final read CTA
   .
   <I>## Found down/FTT:</I>Likely decompensation in setting of acute
   infection, question of FTT versus acute illness that caused her do
   decompensate.  Unclear relationship to Lunesta.
   -TSH/B12, treat hypercalcemia as below.
   -Check albumin
   -Head CT
 no acute process
   .
   <I>## Tachycardia:</I>
   -hydrate, IVF boluses for UOP and tachycardia
   -continue to monitor
   .
   <I>## Lung nodule:</I>Suspicious for malignancy given size, history of
   smoking concerning for lung primary vs possible met of unclear source.
   High calcium and LDH concerning for malignancy, although LDH sample was
   from hemolyzed draw.
   -D/w PCP
   [**Name9 (PRE) 5847**] Ca, LDH.
   .
   <I>## Hypernatremia:</I>Likely dehydrated in setting of no PO intake x
   days.
   -free water flushes and D5W to replete 1.4L deficit
   .
   <I>## Hypercalcemia:</I>Likely higher than 10.3 given pt
s cachectic
   appearance albumin likely low.  ? suggestive of malignancy.
   -check albumin
   -hydration
   -continue to monitor
   <I>## FEN/Lytes:</I> TF, f/u nutrition recs, IVF boluses + free water
   repletion as above.
   <I>## Prophylaxis:</I> Heparin SC 5000 tid
   <I>## Code status:</I> FULL CODE
   <I>## Dispo:</I> Pending extubation and stabilization
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-6-10**] 12:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-6-9**] 04:13 PM
   22 Gauge - [**2185-6-9**] 04:13 PM
   Arterial Line - [**2185-6-9**] 06:59 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Son Comments:
   [**Name2 (NI) 129**] status: Full code
   Disposition: ICU until Extubate

2185-06-10 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2185-6-9**] 03:07 PM
 ARTERIAL LINE - START [**2185-6-9**] 06:59 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-6-10**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2185-6-10**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 71 (59 - 90) bpm
   BP: 164/73(109) {116/57(79) - 172/77(114)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  3,132 mL
                                                                  1,062 mL
   PO:
             TF:
             50 mL
   IVF:
                                                                  1,132 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                    430 mL
   Urine:
                                                                    390 mL
                                                                    430 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,702 mL
                                                                    632 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 241 (241 - 241) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 10 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.35/54/144/26/3
   Ve: 7.9 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.7 g/dL
   260 K/uL
   295 mg/dL
   0.8 mg/dL
   26 mEq/L
   5.2 mEq/L
   27 mg/dL
   112 mEq/L
   145 mEq/L
   41.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2185-6-9**]  06:40 PM
                             [**2185-6-9**]  09:59 PM
                             [**2185-6-9**]  10:39 PM
                             [**2185-6-10**]  05:08 AM
                             [**2185-6-10**]  05:46 AM
   WBC
   5.7
   Hct
   41.0
   Plt
   260
   Cr
   0.7
   0.8
   TCO2
   27
   29
   31
   Glucose
   250
   295
   Other labs: PT / PTT / INR:13.0/40.1/1.1, ALT / AST:10/38, Alk Phos / T
   Bili:47/0.4, Differential-Neuts:85.9 %, Lymph:9.6 %, Mono:4.3 %,
   Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:585 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging:
   CXR-LLL infiltrate increased from [**6-9**]
   Assessment and Plan
   72 yo female found in her assitant living facility with decreased
   responsiveness and upon arrival was found to have tachycardia,
   tachypnea and intubated with hypoxemic respiratory failure and
   pneumonia.  Following transfer to [**Hospital Ward Name 77**] ICU patient with ventilator
   weaned and patient extubated following review of CT scan with clear
   evidence of LL pneumonia.  Multiple indices such as increased Na+ and
   increased HCT suggest clear evidence of significant deyhdration in
   addition to the hypovolemia.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-_This is clearly secondary
   to underlying COPD and now worsened with left sided pneumonia and in
   the setting of increased resp distress and active infection patient
   with progression to respiratory failure with minimal evidence of
   exacerbation of underlying reactive airways disease.
   Pneumonia-Vanco/Levo/CTX
   COPD-Albuterol/Atrovent and use of NIPPV for support and wean
   intermittently
   2) HYPERNATREMIA (HIGH SODIUM)-
   -Continue free water replacement
   3)Pulmonary Nodule
concerning for malignancy
   -Will need follow up evaluation and would favor biopsy.
   ICU Care
   Nutrition: Has pulmonary wasting
will need increased caloric intake and
   low carbohydrate
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-6-9**] 04:13 PM
   22 Gauge - [**2185-6-9**] 04:13 PM
   Arterial Line - [**2185-6-9**] 06:59 PM
   Prophylaxis:
   DVT: OOB to chair
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2185-06-11 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   -CTA final read:
   1. No evidence of pulmonary embolism or dissection.
   2. Nodule at the lingula as detailed above. Recommend comparison with
   prior imaging of the chest if available, and in its absence, this
   finding needs clinical correlation for possible malignancy and close 3
   month followup.
   3. Small collection of tree-in-[**Male First Name (un) **] and ground-glass opacity on the left
   may represent an infectious process in the appropriate clinical
   context.
   -BiPAP, recheck gas: 7.40/46/145
   -gas on BiPAP overnight: 7.38/53/110
   -cont ceftriaxone and azithro for ?pna
   -micro data-
     -sputum GPC pairs and chains, GPR
     -viral screen negative
     -urine and blood negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-6-10**] 06:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-6-11**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 54 (49 - 80) bpm
   BP: 122/52(76) {113/49(72) - 173/78(114)} mmHg
   RR: 20 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  2,237 mL
                  PO:
                                                                    120 mL
                  TF:
                                                                     50 mL
   IVF:
                                                                  2,037 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    620 mL
   Urine:
                                                                  1,810 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    427 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (353 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.42/49/77.[**Numeric Identifier **]/29/5
   Ve: 7.8 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General: awake, alert and oriented, no distress. Breathing comfortably
   on nasal cannula.
   Pulmonary: no wheezes but restricted air movement anteriorly with
   prolonged E:I
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: Thin, soft, + BS.
   Extremities: Thin, no edema, distal pulses present.
   Labs / Radiology
   253 K/uL
   13.3 g/dL
   132 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.5 mEq/L
   17 mg/dL
   113 mEq/L
   149 mEq/L
   40.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-6-9**]  10:39 PM
                             [**2185-6-10**]  05:08 AM
                             [**2185-6-10**]  05:46 AM
                             [**2185-6-10**]  09:55 AM
                             [**2185-6-10**]  03:01 PM
                             [**2185-6-10**]  03:16 PM
                             [**2185-6-10**]  06:00 PM
                             [**2185-6-10**]  10:45 PM
                             [**2185-6-11**]  04:10 AM
                             [**2185-6-11**]  04:12 AM
   WBC
   5.7
   10.0
   Hct
   41.0
   40.5
   Plt
   260
   253
   Cr
   0.8
   0.6
   0.5
   TCO2
   29
   31
   30
   30
   33
   33
   Glucose
   295
   226
   266
   132
   Other labs: PT / PTT / INR:13.0/40.1/1.1, ALT / AST:10/38, Alk Phos / T
   Bili:47/0.4, Differential-Neuts:85.9 %, Lymph:9.6 %, Mono:4.3 %,
   Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:585 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   72 yo woman with history of emphysema/COPD and prior CVAs found down,
   hypoxic, tachycardic and confused.
   # Respiratory failure: Ddx PNA vs COPD flare. Patient arrived to floor
   intuibated but was extubated the following morning. She was on BiPAP
   for most of the day yesterday and overnight, but now appears very
   comfortable on nasal cannula.
   -continue nebs
   -consider change to prednisone today with plan for rapid taper
   -continue ceftriaxone/azithromycin d2/5
   # Found down/FTT: Likely decompensation in setting of acute infection
   and hypovolemia from poor po intake.
   -encourage pos
   -consider social work consult to assess home safety/neglect
   # Tachycardia: resolved with IVF
   -continue to monitor
   # Lung nodule: suspicious for malignancy given size and history of
   smoking. Concerning for lung primary vs possible met of unclear source.
   -will need follow-up CT scan in 3 months
   # Hypernatremia: Likely dehydrated in setting of no PO intake x days.
   -encourage free water intake
   -recheck electrolytes in afternoon
   # Hypercalcemia: Resolved with IVF.
   -hydration
   -continue to monitor
   ## FEN/Lytes: could progress to po diet, with supervision. Supplement
   with ensure.
   ## Prophylaxis: Heparin SC 5000 tid
   ## Code status: FULL CODE
   ## Dispo: could call-out to medicine floor today
   ICU Care
   Nutrition: could progress to po diet, with supervision
   Glycemic Control:  insulin sliding scale
   Lines:
   20 Gauge - [**2185-6-9**] 04:13 PM
   22 Gauge - [**2185-6-9**] 04:13 PM
   Arterial Line - [**2185-6-9**] 06:59 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to medicine floor today

2185-06-11 09:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Reviewed. On admission CTA was neg, started on high dose steroids,
   nebs, Abx
   24 Hour Events:
   Yesterday AM extubated without complication. Was on BiPAP post
   extubation, tolertated well.
   Last 4am  7.42/49/78
   ABx changed to CFTX/Azithro
   Micro data - sputum gram GPC in p&c and GPR, culture pending, urine and
   blood NGTD
   Sats 100% on 2L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-6-11**] 08:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-6-11**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (96.9
   HR: 70 (49 - 80) bpm
   BP: 139/60(91) {113/49(72) - 173/78(114)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  2,237 mL
                                                                    240 mL
   PO:
                                                                    120 mL
                                                                    240 mL
   TF:
                                                                     50 mL
   IVF:
                                                                  2,037 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    690 mL
   Urine:
                                                                  1,810 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    427 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (353 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 10 cmH2O
   SpO2: 93%
   ABG: 7.42/49/77.[**Numeric Identifier **]/29/5
   Ve: 7.8 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), Prolonged E:I
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.3 g/dL
   253 K/uL
   132 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.5 mEq/L
   17 mg/dL
   113 mEq/L
   149 mEq/L
   40.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-6-9**]  10:39 PM
                             [**2185-6-10**]  05:08 AM
                             [**2185-6-10**]  05:46 AM
                             [**2185-6-10**]  09:55 AM
                             [**2185-6-10**]  03:01 PM
                             [**2185-6-10**]  03:16 PM
                             [**2185-6-10**]  06:00 PM
                             [**2185-6-10**]  10:45 PM
                             [**2185-6-11**]  04:10 AM
                             [**2185-6-11**]  04:12 AM
   WBC
   5.7
   10.0
   Hct
   41.0
   40.5
   Plt
   260
   253
   Cr
   0.8
   0.6
   0.5
   TCO2
   29
   31
   30
   30
   33
   33
   Glucose
   295
   226
   266
   132
   Other labs: PT / PTT / INR:13.0/40.1/1.1, ALT / AST:10/38, Alk Phos / T
   Bili:47/0.4, Differential-Neuts:85.9 %, Lymph:9.6 %, Mono:4.3 %,
   Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:585 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: K repleted
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
   72 yo female found in her assitant living facility with decreased
   responsiveness and upon arrival was found to have tachycardia,
   tachypnea and intubated with hypoxemic respiratory failure and
   pneumonia.  Following transfer to [**Hospital Ward Name 77**] ICU patient with ventilator
   weaned and patient extubated following review of CT scan with clear
   evidence of LL pneumonia.  Multiple indices such as increased Na+ and
   increased HCT suggest clear evidence of significant deyhdration in
   addition to the hypovolemia. But etiology of being found down unclear.
   [**Name2 (NI) 83**] evidence of stroke. Possible LLL pneumonia in context of fibrosis
   (honeycombing on CT) and severe emphysema.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-_This is clearly secondary
   to underlying severe COPD and now worsened with left sided pneumonia
   and in the setting of increased resp distress and active infection
   patient with progression to respiratory failure with minimal evidence
   of exacerbation of underlying reactive airways disease.
   Pneumonia - Azithro/CTX
   COPD-Albuterol/Atrovent and use of NIPPV for support and wean
   intermittently
   2) HYPERNATREMIA (HIGH SODIUM)-
   -Encourage PO
   -repeat lytes in PM to follow Na
   3)Pulmonary Nodule
concerning for malignancy
   -Will need follow up evaluation and would favor biopsy.
   4) Anorexia - ? due to underlying malignancy, depression. [**Name8 (MD) **] RN,
   swallows well but would consider swallow eval. Ensure or Boost
   5) Discharge planning - needs SW consult
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2185-6-9**] 04:13 PM
   22 Gauge - [**2185-6-9**] 04:13 PM
   Arterial Line - [**2185-6-9**] 06:59 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes